US09034900B2
Step 1: N-[3-bromo-4-(2,4-difluorophenoxy)phenyl]ethanesulfonamide
Ethylsulfonyl chloride (177 mg, 1.4 mmol) was added dropwise to a stirred solution of 3-bromo-4-(2,4-difluorophenoxy)aniline (328 mg, 1.1 mmol) and pyridine (178 μL, 2.2 mmol) in dichloromethane (2 ml) at 0° C. under nitrogen. After the mixture was allowed to warm to rt and stir overnight, it was treated with 1N HCl (10 ml) and extracted with dichloromethane (3×10 ml); the combined organic extracts were washed with saturated bicarbonate solution (aq), dried over sodium sulfate, filtered and concentrated in vacuo to give the title compound (430 mg, 99%) as a tan solid which was carried forward without purification. LCMS (M−H)−=391.

reactant | Ethylsulfonyl chloride | 1.4 mmol, 177 mg | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 3-bromo-4-(2,4-difluorophenoxy)aniline | 1.1 mmol, 328 mg | BrC=1C=C(N)C=CC1OC1=C(C=C(C=C1)F)F | C12H8BrF2NO
reactant | pyridine | 2.2 mmol, 178 μL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1N, 10 ml | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-[3-bromo-4-(2,4-difluorophenoxy)phenyl]ethanesulfonamide | 430 mg, 99% | BrC=1C=C(C=CC1OC1=C(C=C(C=C1)F)F)NS(=O)(=O)CC | C14H12BrF2NO3S
